US05145852
papaverine approximately 20 mg;
ifenprodil tartrate approximately 0.75 mg as an alpha1 blocker; atropine approximately 0.025 mg as an anticholinergic; yohimbine approximately 0.075 mg as an alpha2 blocker; dipyridamol approximately 0.25 mg as a phosphodiasterase inhibitor; piribedil approximately 0.225 mg as a dopaminergic; and alprostil approximately 33 μg as a prostaglandin.

reactant | ifenprodil tartrate | approximately 0.75 mg | CC(C(C=1C=CC(=CC1)O)O)N2CCC(CC2)CC=3C=CC=CC3.C(C(C(=O)O)O)(C(=O)O)O
reactant | atropine | approximately 0.025 mg | CN1[C@@H]2CC[C@H]1C[C@H](C2)OC(=O)C(CO)C=3C=CC=CC3 | C17H23NO3
reactant | yohimbine | approximately 0.075 mg | COC(=O)[C@H]1[C@H](CC[C@@H]2[C@@H]1C[C@H]3C4=C(C=5C=CC=CC5N4)CCN3C2)O | C21H26N2O3
reactant | dipyridamol | approximately 0.25 mg | C1CCN(CC1)C=2C3=C(C(=NC(=N3)N(CCO)CCO)N4CCCCC4)N=C(N2)N(CCO)CCO | C24H40N8O4
reactant | piribedil | approximately 0.225 mg | C=1C=NC(=NC1)N2CCN(CC2)CC=3C=CC4=C(C3)OCO4 | C16H18N4O2
product | papaverine | COC=1C=CC(=CC1OC)CC2=C3C=C(C(=CC3=CC=N2)OC)OC | C20H21NO4
